US09343198B2
4-methoxyacridin-9-ol (2.0 g, 8.88 mmol), 1-bromooctane (2.17 g, 11.24 mmol), and potassium carbonate (7.91 g, 57.2 mmol) was mixed in N,N-dimethylformamide and heated at 120° C. for 8 h and the potassium carbonate was filtered off. The reaction mixture was quenched with water and extracted two times with ether and the combined organic phases was then washed once with 1M HCl, two times with water, and evaporated to obtain a yellow solid. The solid was recrystallised in methanol to give 4-methoxy-9-(octyloxy)acridine (0.95 g, 2.82 mmol) as yellow crystals. 1H-NMR (CDCl3, δ): 0.881 (t, 3H), 1.2-1.4 (m, 10H), 1.924 (m, 2H), 3.985 (s, 3H), 4.507 (t, 2H), 7.2-7.3 (m, 3H), 7.621 (d, 1H), 7.707 (m, 1H), 8.181 (m, 1H), 8.498 (m, 1H) MS MALDI-TOF (m/z): 337.146

reactant | 4-methoxyacridin-9-ol | 8.88 mmol, 2.0 g | COC1=CC=CC2=C(C3=CC=CC=C3N=C12)O | C14H11NO2
reactant | 1-bromooctane | 11.24 mmol, 2.17 g | BrCCCCCCCC | C8H17Br
reactant | potassium carbonate | 57.2 mmol, 7.91 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4-methoxy-9-(octyloxy)acridine | 2.82 mmol, 0.95 g | COC1=CC=CC2=C(C3=CC=CC=C3N=C12)OCCCCCCCC | C22H27NO2
